US06242443B1
a) 3-Oxo-2,3-dihydro-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide monohydrate
7-Methyl-3-oxo-2,3-dihydro-4H-1,2,4-benzothiadiazine 1,1-dioxide (20 g) was suspended in hot water (2000 mL) and supplemented dropwise with a 10% aqueous solution of NaOH until complete dissolution. Potassium permanganate (60 g) was added portionwise and the reaction mixture was stirred for 3 h at 70° C. After cooling, the insoluble material was removed by filtration and the purple filtrate was treated with sodium hydrogen sulfite until complete discolouration of the excess of permanganate. The solution was treated with charcoal, filtered, and the filtrate was adjusted to pH 0 with 12N HCl. The resulting suspension was placed at +4° C. during 2 h and the crystalline precipitate was collected by filtration, washed with water and dried (yield: 14.5 g); m.p.: 305-308° C.

reactant | 7-Methyl-3-oxo-2,3-dihydro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 20 g | CC1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C8H8N2O3S
reactant | NaOH | [OH-].[Na+]
reactant | Potassium permanganate | 60 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 2000 mL | O | H2O
product | 3-Oxo-2,3-dihydro-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide monohydrate | O.O=C1NS(C2=C(N1)C=CC(=C2)C(=O)O)(=O)=O | InChI=1S/C8H6N2O5S.H2O/c11-7(12)4-1-2-5-6(3-4)16(14,15)10-8(13)9-5;/h1-3H,(H,11,12)(H2,9,10,13);1H2
